US05066680
Thionyl chloride (0.81 ml) was added to a solution of N-(4-hydroxy-2-butynyl)-2-hydroxy-2,2-diphenylacetamide (3.32 g) and N,N-dimethylformamide (6 drops) in chloroform (20 ml) at room temperature. The mixture was stirred at 40° C. for 1 hour, washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and ethyl acetate (5:1) as an eluent to give N-(4-chloro-2-butynyl) -2-hydroxy-2,2-diphenylacetamide (4.12 g) as oil.

reactant | Thionyl chloride | 0.81 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4-hydroxy-2-butynyl)-2-hydroxy-2,2-diphenylacetamide | 3.32 g | OCC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C18H17NO3
catalyst | N,N-dimethylformamide | 6 drops | CN(C=O)C | C3H7NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chloro-2-butynyl) -2-hydroxy-2,2-diphenylacetamide | 4.12 g | ClCC#CCNC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C18H16ClNO2
